US08193228B2
Benzyl 4,4,4-trifluoro-3-methylbut-2-enoate (1.87 g, 7.67 mmol) in diethyl ether (5 mL) was added dropwise to a suspension of LAH (291 mg, 1.67 mmol) in diethyl ether (10 mL). After stirring at −78° C. for 10 min and at 0° C. for a further 30 min, the reaction mixture was filtered through cotton, quenched with sodium potassium tartrate and stirred vigorously until layers separated. The aqueous phase was extracted with diethyl ether. The combined ethereal layers were dried (magnesium sulfate) and concentrated in vacuo to afford 4,4,4-trifluoro-3-methylbut-2-en-1-ol which was used in the subsequent step without further purification.

reactant | Benzyl 4,4,4-trifluoro-3-methylbut-2-enoate | 7.67 mmol, 1.87 g | FC(C(=CC(=O)OCC1=CC=CC=C1)C)(F)F | C12H11F3O2
reactant | LAH | 1.67 mmol, 291 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | diethyl ether | 5 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 10 mL | C(C)OCC | C4H10O
product | 4,4,4-trifluoro-3-methylbut-2-en-1-ol | FC(C(=CCO)C)(F)F | C5H7F3O
